US05153214
To a solution of (-)-2(R)-allyl-6-(benzyloxy)-hexan-1-ol (5.0 g, 20 mmol) in methylene chloride (85 ml) at 0° C. is added triethylamine (4.6 ml, 33 mmol) followed by methanesulfonyl chloride. The mixture is allowed to stir at 0° C. for 2 hours and then quenched using saturated sodium bicarbonate solution. The organic layer is separated, dried, filtered and evaporated to give (-)-2(R)-allyl-6-(benzyloxy)hexan-1-yl methanesulfonate (mesylate ester) which is used as is.

reactant | (-)-2(R)-allyl-6-(benzyloxy)-hexan-1-ol | 20 mmol, 5.0 g | C(C=C)[C@H](CO)CCCCOCC1=CC=CC=C1 | C16H24O2
reactant | triethylamine | 33 mmol, 4.6 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
solvent | methylene chloride | 85 ml | C(Cl)Cl | CH2Cl2
product | (-)-2(R)-allyl-6-(benzyloxy)hexan-1-yl methanesulfonate | CS(=O)(=O)OC[C@H](CCCCOCC1=CC=CC=C1)CC=C | C17H26O4S
